US06831193B2
N-[(2′-methoxy[1,1′-biphenyl]-4-yl)methyl]-N-[(1S)-1,2,3,4-tetrahydro-1-naphthalenyl]amine
2′-Methoxy[1,1′-biphenyl]-4-carbaldehyde and (1S)-1,2,3,4-tetrahydro-1-naphthalenylamine were processed as described in Example 1A to provide the title compound.

reactant | 2′-Methoxy[1,1′-biphenyl]-4-carbaldehyde | COC1=C(C=CC=C1)C1=CC=C(C=C1)C=O | C14H12O2
reactant | (1S)-1,2,3,4-tetrahydro-1-naphthalenylamine | [C@@H]1(CCCC2=CC=CC=C12)N | C10H13N
product | N-[(2′-methoxy[1,1′-biphenyl]-4-yl)methyl]-N-[(1S)-1,2,3,4-tetrahydro-1-naphthalenyl]amine | COC1=C(C=CC=C1)C1=CC=C(C=C1)CN[C@H]1CCCC2=CC=CC=C12 | C24H25NO
